US07618959B2
b) (2-{5-[6-(methyloxy)-1,5-naphthyridin-4-yl]-2-pyridinyl}ethyl)amine hydrochloride salt
To a stirred solution of 1,1-dimethylethyl (2-(5-[6-(methyloxy)-1,5-naphthyridin-4-yl]-2-pyridinyl}ethyl)carbamate (4.0 mmole) in dry THF (20 mL) at RT was added 4 M HCl in dioxane (10 mL). After 4 h, the reaction suspension was concentrated in vacuo and dried under high vacuum to give the title compound (100%.) as an off-white solid: LC-MS (ES) m/e 281 (M+H)+.

reactant | 1,1-dimethylethyl (2-(5-[6-(methyloxy)-1,5-naphthyridin-4-yl]-2-pyridinyl}ethyl)carbamate | 4.0 mmole | COC=1N=C2C(=CC=NC2=CC1)C=1C=CC(=NC1)CCNC(OC(C)(C)C)=O | C21H24N4O3
reactant | HCl | 4 M | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (2-{5-[6-(methyloxy)-1,5-naphthyridin-4-yl]-2-pyridinyl}ethyl)amine hydrochloride salt | 100% | Cl.COC=1N=C2C(=CC=NC2=CC1)C=1C=CC(=NC1)CCN | InChI=1S/C16H16N4O.ClH/c1-21-15-5-4-14-16(20-15)13(7-9-18-14)11-2-3-12(6-8-17)19-10-11;/h2-5,7,9-10H,6,8,17H2,1H3;1H
